** sch_path: /home/to/eda/projects/xschem_sky130_test/inverter_core.sch
**.subckt inverter_core VPWR A Y VGND
*.ipin A
*.opin Y
*.iopin VPWR
*.iopin VGND
XM1 Y A VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM2 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
**.ends
.end
